US05559111
b) 3(R)-Benzyloxycarbonylamino-4-methylpentanoic acid N-(methyl)amide
2.23 g of 3(R)-benzyloxycarbonylamino-4-methylpentanoic acid ethyl ester and 50 ml of 33% methylamine (in ethanol) are left to stand for 48 hours at room temperature. The reaction mixture is concentrated by evaporation and the residue is crystallised from ethyl acetate. The title compound is obtained: Rf (dichloromethane/methanol=95:5)=0.24; m.p. 190°-191° C.

reactant | 3(R)-benzyloxycarbonylamino-4-methylpentanoic acid ethyl ester | 2.23 g | C(C)OC(C[C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C16H23NO4
reactant | methylamine | 50 ml | CN | CH5N
product | 3(R)-Benzyloxycarbonylamino-4-methylpentanoic acid N-(methyl)amide | CNC(C[C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C15H22N2O3
